US05420141
(S)-2-{[1-(4-Chloro-1-naphthyl)-5-(2,6-dihydroxyphenyl)-3-pyrazolyl]carbonylamino}hexanoic acid.
0.3 g of 2-{[1-(4-chloro-1-naphthyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolyl]carbonylamino}hexanoic acid is dissolved in 6.7 ml of dichloromethane and the mixture is cooled to -70° C. 5.7 ml of boron tribromide, dissolved in 20 ml of dichlormethane, are added dropwise and the reaction mixture is left for 2 hours at -70° C. It is allowed to return to room temperature, and 12 ml of water are then added while cooling. Concentrated NaOH is added to pH 14. The aqueous phase is washed with ether and brought to pH 2, the product is extracted with ethyl acetate and the organic phase is dried over sodium sulphate, filtered and evaporated. The residue is crystallised from diisopropyl ether.

reactant | 2-{[1-(4-chloro-1-naphthyl)-5-(2,6-dimethoxyphenyl)-3-pyrazolyl]carbonylamino}hexanoic acid | 0.3 g | ClC1=CC=C(C2=CC=CC=C12)N1N=C(C=C1C1=C(C=CC=C1OC)OC)C(=O)NC(C(=O)O)CCCC | C28H28ClN3O5
reactant | boron tribromide | 5.7 ml | B(Br)(Br)Br | BBr3
reactant | water | 12 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | dichloromethane | 6.7 ml | ClCCl | CH2Cl2
solvent | dichlormethane | 20 ml | ClCCl | CH2Cl2
product | (S)-2-{[1-(4-Chloro-1-naphthyl)-5-(2,6-dihydroxyphenyl)-3-pyrazolyl]carbonylamino}hexanoic acid | ClC1=CC=C(C2=CC=CC=C12)N1N=C(C=C1C1=C(C=CC=C1O)O)C(=O)N[C@H](C(=O)O)CCCC | C26H24ClN3O5
